US04223132
To a solution of benzyl 7β-(α-phenyl-α-carbobenzoxyaminoacetamido)-3-chloro-3-cephem-4-carboxylate (295 mg) in methylene chloride (6 ml) is added a solution of aluminum chloride (267 mg) in nitromethane (3 ml) under ice cooling. After stirring for 2 hours at room temperature, the mixture is diluted with ethyl acetate, washed with dilute hydrochloric acid, and extracted with an aqueous solution of 5% sodium hydrogen carbonate. The extract is acidified with hydrochloric acid and extracted with ethyl acetate. The extract is washed with water, dried, and evaporated. The residue is recrystallized from a mixture of ethyl acetate and ether to give 7β-(α-phenyl-glycinamido)-3-chloro-3-cephem-4-carboxylic acid (167 mg). Yield: 91.4%.

reactant | benzyl 7β-(α-phenyl-α-carbobenzoxyaminoacetamido)-3-chloro-3-cephem-4-carboxylate | 295 mg | C1(=CC=CC=C1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=CC=C2)C1=O)NC(=O)OCC1=CC=CC=C1 | C30H26ClN3O6S
reactant | aluminum chloride | 267 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | nitromethane | 3 ml | [N+](=O)([O-])C | CH3NO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7β-(α-phenyl-glycinamido)-3-chloro-3-cephem-4-carboxylic acid | 167 mg, Yield: 91.4% | C1(=CC=CC=C1)C(N)C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O | C15H14ClN3O4S
